US04925864
Preparation of 3-(tert-butyl)-5-methylsulfonyl-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazol
3.5 g (0.01 mol) of 3-(tert-butyl)-5-methylthio-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole was added to 120 ml of 85% ethanol, and 24.6 g (0.04 mol) of Oxone (trade mark) was further added thereto. The mixture was stirred at room temperature for 4 hours. Then, water was added to such an extent that Oxone (as described above) remained in a small amount, and the mixture was extracted with dichloromethane. The dichloromethane layer was dried, and then the solvent was distilled off. The residue was purified by silica gel column chromatography to obtain 3.0 g (yield: 78.9 g) of the desired compound as white powder. Melting point: 179°-180° C.

reactant | 3-(tert-butyl)-5-methylthio-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazole | 0.01 mol, 3.5 g | C(C)(C)(C)C1=NN(C(=N1)SC)C1=C(C=C(C=C1Cl)Cl)Cl | C13H14Cl3N3S
reactant | ethanol | 120 ml | C(C)O | C2H6O
reactant | Oxone | 0.04 mol, 24.6 g | OOS(=O)[O-].[K+]
solvent | water | O | H2O
product | 3-(tert-butyl)-5-methylsulfonyl-1-(2,4,6-trichlorophenyl)-1H-1,2,4-triazol | 3.0 g | C(C)(C)(C)C1=NN(C(=N1)S(=O)(=O)C)C1=C(C=C(C=C1Cl)Cl)Cl | C13H14Cl3N3O2S
